US06569888B1
N-(3,4-Dichlorobenzyl)-4-(2-hydroxy-3-dimethylaminopropoxy)indole-2-carboxylic Acid (Compound 16)
Dimethylamine in methanol (2.0 M, 2.14 ml) was added to a stirred solution of methyl N-(3,4-dichlorobenzyl)-4-(2,3-epoxypropyloxy)indole-2-carboxylate (87 mg) in DMF (5 ml) under an atmosphere of argon. The reaction was heated at 80° C. for 16 hours. The reaction was concentrated in vacuo and the residue partitioned between ethyl acetate and water. Combined organic extracts were washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated in vacuo. The residue was dissolved in THF (3 ml) and methanol (1.5 ml) and NaOH (2M, 3 ml) added and the reaction stirred for 16 hours. The reaction was then concentrated in vacuo and the residue dissolved in water. The solution was acidified by dropwise addition of acetic acid, resulting in the precipitation of a white solid which was filtered, washed with water and dried in vacuo to give the desired end product as a white solid (50 mg, 54%, 2 steps); NMR d (CD3SOCD3) 2.85 (s, 6H), 3.22-3.40 (m, 2H), 4.01-4.14 (m, 1H), 5.81 (s, 2H), 6.01 (d, 1H), 6.60 (d, 1H), 6.88 (dd, 1H), 7.13 (d, 1H), 7.21 (t, 1H), 7.28 (d, 1H), 7.44 (s, 1H), 7.53 (d, 1H); M/z (−) 435 (M−H+).

reactant | Dimethylamine | CNC | C2H7N
reactant | methyl N-(3,4-dichlorobenzyl)-4-(2,3-epoxypropyloxy)indole-2-carboxylate | 87 mg | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)OCC2CO2)C(=O)OC)C=CC1Cl | C20H17Cl2NO4
solvent | methanol | 2.0 M, 2.14 ml | CO | CH4O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(3,4-Dichlorobenzyl)-4-(2-hydroxy-3-dimethylaminopropoxy)indole-2-carboxylic Acid | 50 mg, 54% | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)OCC(CN(C)C)O)C(=O)O)C=CC1Cl | C21H22Cl2N2O4
